US07202363B2
N-[4-(4,7-diaminothieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide
N-(4-{4-Amino-7-[(diphenylmethylene)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (0.058 g, 0.096 mmol) in tetrahydrofuran (2 mL) and aqueous hydrochloric acid (2 M, 0.225 mL) was stirred at ambient temperature for 15 h. The reaction mixture was diluted with methanol/dichloromethane (1:49, 50 mL), and the resulting solution was extracted with aqueous sodium carbonate (1 M, 10 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated. Purification of the residue by flash column chromatography on silica gel which had been deactivated with triethylamine (10% by volume of silica gel used), using a gradient of methanol/dichloromethane (1:19 to 1:9) as the mobile phase afforded the title compound (0.015 g, 0.034 mmol) as light brown flakes: 1H NMR (DMSO-d6, 400 MHz) δ 9.49 (s, 1H), 7.96 (d, 1H), 7.70 (d, 1H), 7.58 (d, 1H), 7.39 (s, 1H), 7.35 (s, 1H), 7.33 (m, 1H), 7.17 (s, 1H), 7.15 (m, 1H), 7.06 (d, 1H), 4.77 (br, 2H), 4.71 (br, 2H), 4.04 (s, 3H), 3.91 (s, 3H); MS: (MH)+ 444.

reactant | N-(4-{4-Amino-7-[(diphenylmethylene)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.096 mmol, 0.058 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C37H29N5O2S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2 M, 0.225 mL | Cl | ClH
solvent | methanol dichloromethane | 50 mL | CO.ClCCl
product | N-[4-(4,7-diaminothieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | 0.034 mmol, 0.015 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)N | C24H21N5O2S
